US07629346B2
5-Bromo-6-(4-chloro-phenyl)-pyrazine-2-carboxylic acid (2-cyclopropyl-2-hydroxy-propyl)-amide
To a suspension of 0.700 g (0.00223 mol) 5-bromo-6-(4-chloro-phenyl)-pyrazine-2-carboxylic acid in 7.0 ml dichloromethane was added a solution of 0.35 g (0.00262 mol) (1-chloro-2-methyl-propenyl)-dimethyl-amine and the mixture was stirred at room temperature for 45 min. To the resulting yellow solution was added dropwise during 15 minutes a solution of 0.296 g (0.00257 mol) 1-amino-2-cyclopropyl-propan-2-ol and 0.433 g ethyldiisopropylamine in 4.0 ml dichloromethane and the mixture was stirred at room temperature for 1 h. The resulting mixture was partitioned between 10% aqueous citric acid and ethyl acetate. The phases were separated and the organic phase was dried over magnesium sulfate and evaporated. The residue was purified by chromatography on silica gel with heptane to ethyl acetate=7:3 to yield 0.748 g (81% Th) of the title compound as slightly yellow foam. MS (ISP) (M+H+)=410.1 and 412.0.

reactant | 5-bromo-6-(4-chloro-phenyl)-pyrazine-2-carboxylic acid | 0.00223 mol, 0.700 g | BrC=1N=CC(=NC1C1=CC=C(C=C1)Cl)C(=O)O | C11H6BrClN2O2
reactant | (1-chloro-2-methyl-propenyl)-dimethyl-amine | 0.00262 mol, 0.35 g | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | 1-amino-2-cyclopropyl-propan-2-ol | 0.00257 mol, 0.296 g | NCC(C)(O)C1CC1 | C6H13NO
reactant | ethyldiisopropylamine | 0.433 g | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 7.0 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 4.0 ml | ClCCl | CH2Cl2
product | 5-Bromo-6-(4-chloro-phenyl)-pyrazine-2-carboxylic acid (2-cyclopropyl-2-hydroxy-propyl)-amide | C1(CC1)C(CNC(=O)C1=NC(=C(N=C1)Br)C1=CC=C(C=C1)Cl)(C)O | C17H17BrClN3O2
